US08030311B2
Step 25.1: {4-[5-(4-Methoxy-phenyl)-benzoimidazol-1-yl]-phenyl}-acetic acid
The title compound is prepared as described in Step 20.1 (Procedure B) but using {4-[5-(4-methoxy-phenyl)-benzoimidazol-1-yl]-phenyl}-acetic acid ethyl ester. The title compound: ES-MS: 359.3 [M+H]+; single peak at tR=3.60 min (System 1); Rf=0.26 (CH2Cl2/MeOH+1% NH3aq, 9:1).

reactant | {4-[5-(4-methoxy-phenyl)-benzoimidazol-1-yl]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C2=CC=C(C=C2)OC)=O | C24H22N2O3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | {4-[5-(4-Methoxy-phenyl)-benzoimidazol-1-yl]-phenyl}-acetic acid | COC1=CC=C(C=C1)C1=CC2=C(N(C=N2)C2=CC=C(C=C2)CC(=O)O)C=C1 | C22H18N2O3
